US06528525B1
(e) Ethyl 2-butyl-3-[4-(2-methanesulfonyloxyethoxy)phenyl]-2-methylpropionate
In a similar manner to that described in Reference example 3(g), a reaction was carried out using ethyl 2-butyl-3-[4-(2-hydroxyethoxy)phenyl]-2-methylpropionate (2.73 g), which is the product of Reference example 10(d), triethylamine (1.85 ml) and methanesulfonyl chloride (0.75 ml) and the reaction mixture was treated to afford the desired compound (3.17 g) as a syrup.

reactant | ethyl 2-butyl-3-[4-(2-hydroxyethoxy)phenyl]-2-methylpropionate | 2.73 g | C(CCC)C(C(=O)OCC)(CC1=CC=C(C=C1)OCCO)C | C18H28O4
reactant | methanesulfonyl chloride | 0.75 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | 1.85 ml | C(C)N(CC)CC | C6H15N
product | Ethyl 2-butyl-3-[4-(2-methanesulfonyloxyethoxy)phenyl]-2-methylpropionate | 3.17 g | C(CCC)C(C(=O)OCC)(CC1=CC=C(C=C1)OCCOS(=O)(=O)C)C | C19H30O6S
